US08729203B2
(b) Synthesis of 3-methyl-3-(phenylthio)butyl acrylate (2)
Into a 3-neck round-bottomed flask was placed (in order): N,N′-diphenyl-1,4-phenylenediamine (0.53 g, 2.04×10−3 moles), 3-Methyl-3-(phenylthio)butan-1-ol (50.0 g, 0.255 moles) and ethyl acrylate (276 mL, 2.55 moles). The apparatus was then assembled for reactive distillation through a Claisen head and purge-filled with nitrogen gas. The reaction flask was heated to 110-115° C. and after ca. 5 mL of ethyl acrylate had distilled over, titanium(IV) isoproproxide (TPT, 2.26 mL, 7.65×10−3 moles) was added to the reaction mixture via syringe in one portion. The rate of distillation immediately increased significantly and the distillate vapour temperature decreased from 99° C. to 90° C. These distillation conditions were maintained for a period of 150 minutes before the apparatus was evacuated by means of a 10 mbar PTFE-diaphragm pump and the remaining ethyl acrylate was stripped from the reaction mixture. The apparatus was then pumped down using a two-stage oil pump and the crude product distilled over at a vapour temperature of 109.5-112° C. (0.18 Torr, appearance: golden liquid, yield: 50.8 g).

reactant | N,N′-diphenyl-1,4-phenylenediamine | 2.04×10−3 moles, 0.53 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1=CC=CC=C1 | C18H16N2
reactant | 3-Methyl-3-(phenylthio)butan-1-ol | 0.255 moles, 50.0 g | CC(CCO)(C)SC1=CC=CC=C1 | C11H16OS
reactant | ethyl acrylate | 2.55 moles, 276 mL | C(C=C)(=O)OCC | C5H8O2
product | 3-methyl-3-(phenylthio)butyl acrylate | C(C=C)(=O)OCCC(C)(SC1=CC=CC=C1)C | C14H18O2S
